US05559113
4-[2-(4-Trifluoromethylphenoxy)ethyl]-1H-imidazole
A solution of 640 mg (1.28 mmol) of 1-triphenylmethyl-4-[2-(4-trifluoromethylphenoxy)ethyl]-1H-imidazole in 2 ml of tetrahydrofuran and 5 ml of 2N hydrochloric acid is heated at 70° C. for 2 hours. The tetrahydrofuran is then evaporated under reduced pressure and the residue extracted with diethyl ether. The aqueous solution is basified with potassium carbonate and the white solid is filtered and washed 3 times with water to give the title compound, M.p.: 105°-109° C.

reactant | 1-triphenylmethyl-4-[2-(4-trifluoromethylphenoxy)ethyl]-1H-imidazole | 1.28 mmol, 640 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCOC1=CC=C(C=C1)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H25F3N2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 5 ml | Cl | ClH
product | 4-[2-(4-Trifluoromethylphenoxy)ethyl]-1H-imidazole | FC(C1=CC=C(OCCC=2N=CNC2)C=C1)(F)F | C12H11F3N2O
